US06534542B2
The intermediate 3-methyl-cyclopent-1-enecarboxylic acid methyl ester was prepared as described below: n-BuLi (40.00 mL, 2.5 M in hexane, 100.00 mmol) was added to diisopropylamine (15.00 mL) in THF at 0° C. After 10 minutes, commercially available methyl 2-oxocyclopentanecarboxylate was added. The reaction mixture was stirred at 0° C. for another 10 minutes, then methyl iodide was added. The resulting reaction mixture was allowed to warm to room temperature over 20 minutes, then quenched with 2N HCl (50 mL). The mixture was extracted with ether, and the combined ether layers were washed with brine, then dried over magnesium sulfate and concentrated. 5.43 g of the methylated ester was dissolved in ethylene glycol dimethyl ether (DME) and cooled to −78° C., then Li(TMS)2N (42.00 mL, 1.0 M in THF, 42.00 mmol) was added. After 60 minutes, the reaction mixture was transferred to Cp2ZrHCl in DME at 0° C. Stirring was continued for another 60 minutes and then the reaction mixture was concentrated. Chromatography (5% EtOAc/hex) gave 1.40 g (29%) of 3-methyl-cyclopent-1-enecarboxylic acid methyl ester. This ester was converted to the final thiourea in accordance with General Procedure G. The intermediates 3-methyl-cyclopent-1-enecarboxylic acid methyl ester and 1-azidomethyl-3-methyl-cyclopentene were isolated and characterized as follows:

reactant | n-BuLi | 100.00 mmol, 2.5 M, 40.00 mL | [Li]CCCC
reactant | diisopropylamine | 15.00 mL | C(C)(C)NC(C)C | C6H15N
reactant | methyl 2-oxocyclopentanecarboxylate | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | methyl iodide | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | DME | COCCOC | C4H10O2
product | 3-methyl-cyclopent-1-enecarboxylic acid methyl ester | 1.40 g, 29% | COC(=O)C1=CC(CC1)C | C8H12O2
